US07018997B2
Step 4: Preparation of (5R,6Z)-6-(3.4-dihydro-2H-[1,3]thiazino[3,2-a]benzimidazol-7-ylmethylene)-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid
4-nitrobenzyl (5R)-6-[(acetyloxy)(3,4-dihydro-2H-[1,3]thiazino[3,2-a]benzimidazol-7-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (700 mg, 1.1 mmol) was suspended in 20 ml THF and 20 ml pH=6.5 aqueous phosphate buffer. The mixture was then subjected to 45 psi hydrogen for two hours. Then it was filtered through a pad of celite and concentrated in vacuo to remove most of the THF. The solution was then cooled to zero degree and basified to pH=8 with 1 N sodium hydroxide. Then it was purified via reverse phase HPLC using 1 liter of water followed by 5%-25% acetonitrile and water. Water was then removed through concentrate in vacuo and 75 mg of product (Yield 18%) was collected. MP: >250° C.; H-NMR(D2O): δ 7.08(m, 6H), 3.70(m, 2H), 4.05(m, 2H), 3.13(m, 2H), 2.22(m, 2H); MS: 372.1(M+H).

reactant | 4-nitrobenzyl (5R)-6-[(acetyloxy)(3,4-dihydro-2H-[1,3]thiazino[3,2-a]benzimidazol-7-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.1 mmol, 700 mg | C(C)(=O)OC(C1([C@H]2SC=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Br)C=1C=CC2=C(N3C(=N2)SCCC3)C1 | C26H21BrN4O7S2
reactant | hydrogen | [H][H] | H2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | phosphate | 20 ml, pH=6.5 | P(=O)([O-])([O-])[O-]
product | (5R,6Z)-6-(3.4-dihydro-2H-[1,3]thiazino[3,2-a]benzimidazol-7-ylmethylene)-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 75 mg, Yield 18% | S1CCCN2C1=NC1=C2C=C(C=C1)\C=C\1/[C@H]2SC=C(N2C1=O)C(=O)O | C17H13N3O3S2
